US07576115B2
1) Synthesis of 1-[5-(4-tert-butylphenyl)-1-ethyl-4-hydroxy-1H-pyrazol-3-yl]ethanone
2-Oxopropanal ethylhydrazone (4.736 mmol, 540.6 mg) synthesized in Reference Synthetic Example 2 and (4-tert-butylphenyl)(oxo)acetaldehyde (4.736 mmol, 901.0 mg) synthesized in Reference Synthetic Example 4 were dissolved in acetic acid (20 mL) and stirred at 100° C. for about 3.5 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump and purified by silica gel thin layer chromatography (n-hexane/AcOEt=1/2, 3/1 and 4/1) to give the desired product as an orange liquid (212 mg, yield 16%).

reactant | 2-Oxopropanal ethylhydrazone | 4.736 mmol, 540.6 mg | C(C)NN=CC(C)=O | C5H10N2O
reactant | (4-tert-butylphenyl)(oxo)acetaldehyde | 4.736 mmol, 901.0 mg | C(C)(C)(C)C1=CC=C(C=C1)C(C=O)=O | C12H14O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 1-[5-(4-tert-butylphenyl)-1-ethyl-4-hydroxy-1H-pyrazol-3-yl]ethanone | 212 mg, yield 16% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1CC)C(C)=O)O | C17H22N2O2
